US06049006
N-[2-[(Aminothioxomethyl)-hydrazono]-2-phenylethyl]-2-methyl-propanamide
Thiosemicarbazide (2.22 g, 24.4 mmol) was added to a solution of N-(2-oxo-phenyl-ethyl)-2-methyl-propanamide (5.0 g, 24.4 mmol), prepared in the previous step, in 70 ml of methanol plus 6.75 ml of 1N HCl plus 6.25 ml of water and the reaction stirred at room temperature overnight. The solid formed was collected by filtration, rinsed with isopropyl alcohol and hexane, and then dried to give 4.12 g of a white solid. Recrystallization of this solid from isopropyl alcohol gave the title compound (3.15 g, 46%) as a white solid, mp 183-185° C.

reactant | Thiosemicarbazide | 24.4 mmol, 2.22 g | NNC(=S)N | CH5N3S
reactant | N-(2-oxo-phenyl-ethyl)-2-methyl-propanamide | 24.4 mmol, 5.0 g | O=C1C(C=CC=C1)CCNC(C(C)C)=O | C12H17NO2
reactant | HCl | 1N, 6.75 ml | Cl | ClH
reactant | water | 6.25 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | N-[2-[(Aminothioxomethyl)-hydrazono]-2-phenylethyl]-2-methyl-propanamide | 4.12 g | NC(=S)NN=C(CNC(C(C)C)=O)C1=CC=CC=C1 | C13H18N4OS
